US07547782B2
A) 2,5-Dichloro-N-methylnicotinamide
Methanamine (0.355 mL, 2.85 mmol) and triethylamine (0.662 mL, 4.75 mmol) were dissolved in CH3CN (14.2 mL) at 23° C. 2,5-Dichloronicotinoyl chloride (500 mg, 2.376 mmol) was added and the reaction was stirred for 16 h. The solvent was removed by rotary evaporation and the residue was partitioned between EtOAc (20 mL) and 5% aq. NaHCO3 soln. (20 mL). The aqueous phase was extracted with EtOAc (3×20 mL). The combined organics were washed with brine, dried over MgSO4 and concentrated. The resulting solid was triturated in 5% EtOAc-Hexane to provide the desired product as a cream powder (456.7 mg, 94%). 1H NMR (CD3OD) δ 8.46 (d, 1H, J=2.54 Hz), 7.96 (d, 1H, J=2.54 Hz), 2.90 (s, 3H); MS(ESI+) m/z 205.1 (M+H)+.

reactant | Methanamine | 2.85 mmol, 0.355 mL | CN | CH5N
reactant | triethylamine | 4.75 mmol, 0.662 mL | C(C)N(CC)CC | C6H15N
reactant | 2,5-Dichloronicotinoyl chloride | 2.376 mmol, 500 mg | ClC1=C(C(=O)Cl)C=C(C=N1)Cl | C6H2Cl3NO
solvent | CH3CN | 14.2 mL | CC#N | C2H3N
product | 2,5-Dichloro-N-methylnicotinamide | 456.7 mg, 94% | ClC1=C(C(=O)NC)C=C(C=N1)Cl | C7H6Cl2N2O
